US09278968B2
To a solution of 35 mg of benzyl [2,2-dimethyl-5-(5-methyl-1,3-oxazol-2-yl)-1,3-dioxan-5-yl]carbamate in 2 ml of ethanol was added 10 mg of 10% palladium-carbon (hydrated), followed by stirring at room temperature for 4 hours under a hydrogen atmosphere of 1 atm. The reaction mixture was filtered over Celite and the filtrate was concentrated under reduced pressure to obtain 21.4 mg of 2,2-dimethyl-5-(5-methyl-1,3-oxazol-2-yl)-1,3-dioxan-5-amine.

reactant | benzyl [2,2-dimethyl-5-(5-methyl-1,3-oxazol-2-yl)-1,3-dioxan-5-yl]carbamate | 35 mg | CC1(OCC(CO1)(C=1OC(=CN1)C)NC(OCC1=CC=CC=C1)=O)C | C18H22N2O5
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 2,2-dimethyl-5-(5-methyl-1,3-oxazol-2-yl)-1,3-dioxan-5-amine | 21.4 mg | CC1(OCC(CO1)(N)C=1OC(=CN1)C)C | C10H16N2O3
